US05527819
Step D: 3-Phenylsulfonyl-5-chloroindole-2-carboxamide (Compound 18)
A suspension of ethyl 3-phenylsulfonyl-5-chloroindole-2-carboxylate (596 mg, 1.64 mmol) in aqueous conc. ammonium hydroxide (10 mL) containing ammonium chloride (28 mg) was heated at 100° C. for 3 hours in a sealed screw-top tube. The sealed tube was cooled in an ice bath as product crystallized out. The product was collected by filtration, rinsed with ice water, and dried to give the product, mp 253°-254° C.

reactant | ethyl 3-phenylsulfonyl-5-chloroindole-2-carboxylate | 1.64 mmol, 596 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C17H14ClNO4S
reactant | ammonium chloride | 28 mg | [Cl-].[NH4+]
solvent | ammonium hydroxide | 10 mL | [OH-].[NH4+]
product | 3-Phenylsulfonyl-5-chloroindole-2-carboxamide | C1(=CC=CC=C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)N | C15H11ClN2O3S
